US06921763B2
A suspension of 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyridiniumolate (0.140 g, 0.00040 mol) in dimethoxyethane (7 mL) and water (15 mL) was reacted with 4-phenoxyphenylboronic acid (0.093 g, 0.00043 mol), sodium carbonate (0.105 g, 0.00099 mol) and tetrakis(triphenylphosphine) palladium (0) (0.046 g, 0.00004 mol) at 80° C. for 18 hours. The solid was filtered to give 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate (0.138 g, 0.00035 mol) as a brown solid. A portion (0.040 g, 0.00010 mol) was purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 A, 25 cm; 40% isocratic for five minutes, then 40%-100% acetonitrile-0.1M ammonium acetate over 30 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give the product 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate as a white solid (0.013 g, 0.00003 mol).1H NMR (DMSO-d6, 400 MHz) δ 8.44 (s, 1H), 8.34-8.41 (m, 4H), 7.77 (d, 2H), 7.45 (t, 2H), 7.13-7.24 (m, 5H);

reactant | 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyridiniumolate | 0.00040 mol, 0.140 g | NC1=C2C(=NC=N1)N(N=C2I)C2=CC=[N+](C=C2)[O-] | C10H7IN6O
reactant | 4-phenoxyphenylboronic acid | 0.00043 mol, 0.093 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | sodium carbonate | 0.00099 mol, 0.105 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 7 mL | C(OC)COC | C4H10O2
solvent | water | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.00004 mol, 0.046 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate | 0.00035 mol, 0.138 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2=CC=[N+](C=C2)[O-] | C22H16N6O2
